US04859684
A mixture of 2.75 parts of N2 -(cyclohexylmethyl)-4-(1H-imidazol-1-ylmethyl)-1,2-benzenediamine, 1.85 parts of methyl 2,2,2-trifluoroethanimidate, 40 parts of methanol and 2.3 parts of trifluoroacetic acid was stirred for 7 hours at room temperature. The reaction mixture was made alkaline with methanol, saturated with ammonia. The solvent was evaporated in vacuo and the residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated in vacuo. The residue was dissolved in 11 parts of 2,2'-oxybispropane. The crystallized product was filtered off and dried, yielding 1.9 parts (52.4%) of 1-(cyclohexylmethyl)-6-(1H-imidazol-1-ylmethyl)-2-(trifluoromethyl)-1H-benzimidazole; mp. 165.4° C. (compound 202).

reactant | N2 (cyclohexylmethyl)-4-(1H-imidazol-1-ylmethyl)-1,2-benzenediamine | N#N.C1(CCCCC1)CC1=C(C(=CC=C1CN1C=NC=C1)N)N
reactant | methyl 2,2,2-trifluoroethanimidate | FC(C(OC)=N)(F)F | C3H4F3NO
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 1-(cyclohexylmethyl)-6-(1H-imidazol-1-ylmethyl)-2-(trifluoromethyl)-1H-benzimidazole | 52.4% | C1(CCCCC1)CN1C(=NC2=C1C=C(C=C2)CN2C=NC=C2)C(F)(F)F | C19H21F3N4
